US05342846
(-)-9-Fluoro-3 (S)-methyl-10-[3-(1,2,3-triazol-1-yl) pyrrolidin-1-yl]- 7-oxo-2,3-dihydro-7H-pyrido-[1,2,3de]-1,4-benzoxazine-6-carboxylic acid
To a suspension of 76 mg (0.27 mmol) of (-) -9,10-difluoro-3(S)-methyl-7-oxo-2,3-dihydro-7H -pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid and 118 mg (0.675 mmol) of 3-(1,2,3-triazol-1-yl) pyrrolidine hydrochloride in 10 ml of dry acetonitrile was added 121 mg (0.81 mmol) of DBU. The reddish brown solution was refluxed for 31 hr. The solvent was then removed under reduced pressure. To the residue water was added and extracted with chloroform. The organic layer was then evaporated to dryness, and to the residue, water was added and solid collected to yield 10 mg of the desired product, m.p. 225°-229° C. 1H NMR (TFA) δ: 9.17 (s, 1H), 8.67 (s, 1H), 8.57 (s, 1H), 7.99 (d, 13.3Hz, 1H), 5.9-5.18 (m, 1H), 5.22-4.07 (m, 7H), 3.13-2.63 (m, 2H), 1.82 (s, 3H), 1.79 (s, 3H). Anal. calcd. for C19H18N5O4F . 1/2 H2O: C, 55.86; H, 4.69; N, 17.16. Found: C, 55.93; H, 4.59; N, 16.37.

reactant | (-) -9,10-difluoro-3(S)-methyl-7-oxo-2,3-dihydro-7H -pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid | 0.27 mmol, 76 mg | FC=1C(=C2C=3N([C@H](CO2)C)C=C(C(C3C1)=O)C(=O)O)F | C13H9F2NO4
reactant | 3-(1,2,3-triazol-1-yl) pyrrolidine hydrochloride | 0.675 mmol, 118 mg | Cl.N1(N=NC=C1)C1CNCC1
reactant | DBU | 0.81 mmol, 121 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (-)-9-Fluoro-3 (S)-methyl-10-[3-(1,2,3-triazol-1-yl) pyrrolidin-1-yl]- 7-oxo-2,3-dihydro-7H-pyrido-[1,2,3de]-1,4-benzoxazine-6-carboxylic acid | 10 mg | FC=1C(=C2C=3N([C@H](CO2)C)C=C(C(C3C1)=O)C(=O)O)N1CC(CC1)N1N=NC=C1 | C19H18FN5O4
